US07723333B2
(4-Phenoxybutyl)amine
A mixture of 2-(4-phenoxybutyl)1H-isoindole-1,3(2H)-dione (10.10 g, 3.27 mmol) and 25% hydrazine solution in water (2.88 ml, 13.10 mmol) in EtOH (30 ml) was warmed at reflux. After 1.5 h, EtOAc was added and the mixture was extracted with brine. The combined aqueous phases were then re-extracted with EtOAc and all the organic phases combined. These were then extracted with 1N HCl, the acidic aqueous phases combined, basified with 2N NaOH and re-extracted into EtOAc before evaporating to dryness to give the title compound (0.411 mg, 67%) as an oil. 1H NMR (500 MHz CDCl3): δ 7.32-2.26 (m, 2H), 6.95 (t, 1H), 4.00 (t, 2H), 2.80 (t, 2H), 1.90-1.82 (m, 2H), 1.68-1.62 (m, 2H).

reactant | 2-(4-phenoxybutyl)1H-isoindole-1,3(2H)-dione | 3.27 mmol, 10.10 g | O(C1=CC=CC=C1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C18H17NO3
reactant | hydrazine | NN | H4N2
reactant | water | 13.10 mmol, 2.88 ml | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 30 ml | CCO | C2H6O
product | (4-Phenoxybutyl)amine | 0.411 mg, 67% | O(C1=CC=CC=C1)CCCCN | C10H15NO
